US05004740
3-Bromo-7-(hydroxymethyl)-phenanthrene (12)
A solution of 3-bromo-7-(acetoxymethyl)-phenanthrene (2.042 g, 6.20 mmol) in 50 ml of THF was cooled to 0° C. and a solution of diisobutylaluminum hydride in hexane (1.0M, 14 ml, 14 mmol) was added dropwise. After 30 minutes, the solution was cautiously hydrolyzed with 1N HCl and was then diluted with ethyl acetate and washed successively with 1N HCl, sat. NaHCO3, H2O, and brine. Drying (MgSO4) and evaporation gave 1.77 g (99%) of the title compound as a white solid which was used in the next reaction without purification.

reactant | 3-bromo-7-(acetoxymethyl)-phenanthrene | 6.20 mmol, 2.042 g | BrC=1C=CC=2C=CC3=CC(=CC=C3C2C1)COC(C)=O | C17H13BrO2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hexane | 14 mmol, 1.0M, 14 ml | CCCCCC | C6H14
reactant | HCl | 1N | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-7-(hydroxymethyl)-phenanthrene | 1.77 g, 99% | BrC=1C=CC=2C=CC3=CC(=CC=C3C2C1)CO | C15H11BrO
